US06958340B2
To a solution of (3-amino-5-methylphenyl)methanol (prepared according to: Behrens, C.; Egholm, M.; Buchardt, O. Synthesis 1992, 12, 1235-1236, 750 mg, 5.47 mmol) in CH2Cl2 (25 mL) was added imidazole (447 mg, 6.56 mmol) then TBDMSCl (989 mg, 6.56 mmol) at room temperature. After 72 hours the mixture was diluted with H2O. The layers were separated and the aqueous extracted with CH2Cl2 (2×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (20% EtOAc/hexanes) gave 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-methylaniline as a clear oil. 1H-NMR (300 MHz, CDCl3) δ 6.58 (s, 1H), 6.50 (s, 1H), 6.40 (s, 1H), 4.60 (s, 2H), 3.60 (bs, 2H), 2.24 (s, 3H).

reactant | (3-amino-5-methylphenyl)methanol | NC=1C=C(C=C(C1)C)CO | C8H11NO
reactant | imidazole | 6.56 mmol, 447 mg | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 6.56 mmol, 989 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-methylaniline | [Si](C)(C)(C(C)(C)C)OCC=1C=C(N)C=C(C1)C | C14H25NOSi
